US09422290B2
(1-methyl-5-phenoxy-1H-pyrazol-4-yl)boronic acid
4-Iodo-1-methyl-5-phenoxy-1H-pyrazole (862.00 mg; 2.75 mmol) was dissolved in 15 ml THF extra dry and cooled down to −78° C. Afterwards was added n-BuLi (1.80 ml; 2.88 mmol; 1.6 mol/1 in Hexane) and Triisopropyl borate (982.28 mg; 5.22 mmol). It was stirred for 1 hour. The reaction mixture was quenched with 1 ml water and purified with reversed phase chromatography under basic conditions.

reactant | 4-Iodo-1-methyl-5-phenoxy-1H-pyrazole | 2.75 mmol, 862.00 mg | IC=1C=NN(C1OC1=CC=CC=C1)C | C10H9IN2O
reactant | n-BuLi | 2.88 mmol, 1.80 ml | [Li]CCCC
reactant | Triisopropyl borate | 5.22 mmol, 982.28 mg | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (1-methyl-5-phenoxy-1H-pyrazol-4-yl)boronic acid | CN1N=CC(=C1OC1=CC=CC=C1)B(O)O | C10H11BN2O3
